US07223757B2
(S)-4-{2-[4-(1-Hydroxymethyl-2-phenyl-ethylamino)-2-oxo-1,2-dihydro-pyridin-3-yl]-7-methyl-3H-benzimidazol-5-yl}-piperazine-1-carboxylic acid isopropylamide:
To a solution of (S)-4-(1-hydroxymethyl-2-phenyl-ethylamino)-3-(4-methyl-6-piperazin-1-yl-1H-benzimidazol-2-yl)-1H-pyridin-2-one (30 mg, 0.063 mmol) in methanol (2 mL) was added isopropyl isocyanate (2 drops). The reaction mixture was stirred at room temperature for 5 min. Concentration gave the residue, which was purified by prep. HPLC to yield the title compound (23.8 mg, 69%). 1H NMR (400 MHz, CD3OD) δ 7.55 (1H, s), 7.14–7.28 (7H, m), 6.12 (1H, d, J=7.8 Hz), 4.01–4.03 (1H, m), 3.92 (quintet, J=6.6 Hz), 3.80 (4H, m), 3.76 (1H, dd, J=4.8, 11.2 Hz), 3.70 (1H, dd, J=5.2, 11.2 Hz), 3.61–3.64 (4H, m), 3.09 (11H, dd, J=5.6, 13.7 Hz), 2.91 (1H, dd, J=8.0, 13.7 Hz), 2.64 (3H, s), 1.19 (6H, d, J=6.8 Hz). LCMS (M+H)+ m/z 545 (t=1.99 min.).

reactant | (S)-4-(1-hydroxymethyl-2-phenyl-ethylamino)-3-(4-methyl-6-piperazin-1-yl-1H-benzimidazol-2-yl)-1H-pyridin-2-one | 0.063 mmol, 30 mg | OC[C@H](CC1=CC=CC=C1)NC1=C(C(NC=C1)=O)C1=NC2=C(N1)C=C(C=C2C)N2CCNCC2 | C26H30N6O2
reactant | methanol | 2 mL | CO | CH4O
catalyst | isopropyl isocyanate | 2 drops | C(C)(C)N=C=O | C4H7NO
product | (S)-4-{2-[4-(1-Hydroxymethyl-2-phenyl-ethylamino)-2-oxo-1,2-dihydro-pyridin-3-yl]-7-methyl-3H-benzimidazol-5-yl}-piperazine-1-carboxylic acid isopropylamide | 23.8 mg, 69% | C(C)(C)NC(=O)N1CCN(CC1)C1=CC2=C(N=C(N2)C=2C(NC=CC2N[C@@H](CC2=CC=CC=C2)CO)=O)C(=C1)C | C30H37N7O3
